US06703387B2
6.54 g (30 mmol) of di-tert-butyl dicarbonate in 30 ml of tetrahydrofuran were added dropwise over 30 minutes to an ice-cooled, stirred solution of 5.1 g (50 mmol) of N-isopropylethylenediamine in 100 ml of tetrahydrofuran. The mixture was stirred at room temperature for 3 hours then evaporated to dryness. The residue was dissolved in diethyl ether and water and the organic phase dried over magnesium sulphate, evaporated to dryness and the residue chromatographed on silica gel using dichloromethane/methanol/ acetic acid/water (120:15:3:2) for the elution. There was obtained 3.6 g of N-[2-(isopropylamino)ethyl]pivalamide as a colorless oil. 1H NM (400 MHz, CDCl3) δ: 1.01 (6H,d), 1.41 (9H,s), 2.69 (2H,t), 2.75 (1H,m), 3.18 (2H,q), 4.92 (1H,br.s)

reactant | di-tert-butyl dicarbonate | 30 mmol, 6.54 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-isopropylethylenediamine | 50 mmol, 5.1 g | C(C)(C)NCCN | C5H14N2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[2-(isopropylamino)ethyl]pivalamide | 3.6 g | C(C)(C)NCCNC(C(C)(C)C)=O | C10H22N2O
